US04102896
A mixture of dimedone (50.0 g), phosphorus pentachloride (34.25 g) and dry chloroform (400 ml) was heated at the reflux temperature for a period of 2.5 hours, after which it was kept at the ambient temperature for 18 hours. After removal of the chloroform by evaporation under reduced pressure, the residue was mixed with water and ice and extracted with diethyl ether (3 × 100 ml). The combined ethereal extracts were washed with dilute potassium hydroxide and with water. The combined washings were extracted with fresh ether and these extracts combined with the washed ethereal extracts, and the whole dried over anhydrous magnesium sulphate. The ethereal extract was concentrated by evaporation under reduced pressure, and the residual oil purified by distillation to yield 3-chloro-5,5-dimethylcyclohex-2-enone, b.p. 94° C./15 mm Hg. The infra-red spectrum (liquid film) showed main absorption bands at 3000, 1700, 1620, 1360, 1310, 1160, 1010, 910 and 850 cm-1.

reactant | dimedone | 50.0 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | phosphorus pentachloride | 34.25 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-5,5-dimethylcyclohex-2-enone | ClC1=CC(CC(C1)(C)C)=O | C8H11ClO
